US08686002B2
3-(2,6-Dimethoxybenzyl)-1,6-naphthyridin-2-amine
The title compound was synthesized according to EXAMPLE 11 from 4-amino-3-pyridine carboxaldehyde hydrochloride and 3-(2,6-dimethoxyphenyl)propionitrile. One equivalent of potassium tert-butylate was additionally used.

reactant | 4-amino-3-pyridine carboxaldehyde hydrochloride | Cl.NC1=C(C=NC=C1)C=O
reactant | 3-(2,6-dimethoxyphenyl)propionitrile | COC1=C(C(=CC=C1)OC)CCC#N | C11H13NO2
reactant | potassium tert-butylate | One equivalent | CC(C)(C)[O-].[K+]
product | 3-(2,6-Dimethoxybenzyl)-1,6-naphthyridin-2-amine | COC1=C(CC=2C(=NC3=CC=NC=C3C2)N)C(=CC=C1)OC | C17H17N3O2
